US04767743
12A. N-t-butoxycarbonyl-L-alanyl-D-alanine benzyl ester
To a solution of 23.0 g. (0.121 m) of N-t-butoxycarbonyl-L-alanine, 42.6 g. (0.121 m) of D-alanine benzyl ester p-toluenesulfonic acid salt and 17 ml. (0.121 m) of triethylamine in 400 ml. of cold (0° C.) methylene chloride was added dropwise 25.0 g. (0.121 m) of dicyclohexylcarbodiimide in 100 ml. of methylene chloride. After stirring overnight at room temperature the solids were filtered and the filtrate concentrated to an oil. The residue was dissolved in 400 ml. of ethyl acetate which was washed with a 1% hydrochloric acid solution, a 10% potassium carbonate solution, water and a brine solution. The organic phase was separated, dried over magnesium sulfate and concentrated to an oil. The residue was triturated with diethyl ether and the resulting solids filtered under nitrogen, 16.0 g. An additional 12.7 g. of the desired product crystallized from the filtrate.

reactant | N-t-butoxycarbonyl-L-alanine | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
reactant | D-alanine benzyl ester p-toluenesulfonic acid salt | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC([C@H](N)C)=O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-t-butoxycarbonyl-L-alanyl-D-alanine benzyl ester | C(C1=CC=CC=C1)OC([C@H](NC([C@@H](NC(=O)OC(C)(C)C)C)=O)C)=O | C18H26N2O5
